US04207327
4-Amino-5-chloro-2-methoxy-N-(1,2-diethyl-4-pyrazolidinyl)benzamide Dihydrochloride.
To an ice-sodium chloride chilled stirring suspension of 46.34 g. (0.23 mole) of 4-amino-5-chloro-2-methoxybenzoic acid in 400 ml. of methylene chloride was added 23.23 g. (0.23 mole) of triethylamine. After the temperature had fallen to 0° C., 24.96 g. (0.23 mole) of ethyl chloroformate was added dropwise while maintaining a temperature of 0°-5° C. by ice bath cooling. The mixture was stirred at this temperature for 1 hour. To this was added dropwise at 0°-5° C. a solution of 32.26 g. (0.23 mole) of 1,2-diethyl-4-pyrazolidinamine in methylene chloride and stirring was continued for 0.5 hour at this temperature. The resulting mixture was washed with a dilute solution of sodium bicarbonate and the methylene chloride dried (sodium sulfate), filtered, and concentrated in vacuo. The residue was dissolved in 2-propanol, filtered, and made acidic to litmus by bubbling hydrogen chloride gas through the solution. The product was recrystallized from a mixture of ethanol, 2-propanol and isopropyl ether. A yield of 34.6 g. of product which melted at 182°-185° C. was obtained. To the filtrate was added additional isopropyl ether and after chilling, 15.35 g. of product which melted at 179°-185° C. was obtained. The combined yield was 49.95 g. (50%).

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.23 mole | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | triethylamine | 0.23 mole | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.23 mole | ClC(=O)OCC | C3H5ClO2
reactant | 1,2-diethyl-4-pyrazolidinamine | 0.23 mole | C(C)N1N(CC(C1)N)CC | C7H17N3
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Amino-5-chloro-2-methoxy-N-(1,2-diethyl-4-pyrazolidinyl)benzamide Dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C=C1Cl)OC | InChI=1S/C15H23ClN4O2.2ClH/c1-4-19-8-10(9-20(19)5-2)18-15(21)11-6-12(16)13(17)7-14(11)22-3;;/h6-7,10H,4-5,8-9,17H2,1-3H3,(H,18,21);2*1H
